US06310208B1
In an analogous manner to that described in Example 49 b), from (+)-7,9-dimethyl-1,3,4,4a,5,10b-hexahydro-2H-benzo[h]isoquinolin-6-one by alkylation with bromopropane there was obtained (+)-7,9-dimethyl-2-propyl-1,3,4,4a,5,10b-hexahydro-2H-benzo[h]isoquinolin-6-one, which was converted with fumaric acid into the fumarate (1:1) with m.p. 220.5-226.50°, [α]589=+33.7 (c=0.5, H2O).

reactant | (+)-7,9-dimethyl-1,3,4,4a,5,10b-hexahydro-2H-benzo[h]isoquinolin-6-one | CC1=CC(=CC2=C1C(CC1CCNCC21)=O)C | C15H19NO
reactant | bromopropane | BrCCC | C3H7Br
product | (+)-7,9-dimethyl-2-propyl-1,3,4,4a,5,10b-hexahydro-2H-benzo[h]isoquinolin-6-one | CC1=CC(=CC2=C1C(CC1CCN(CC21)CCC)=O)C | C18H25NO
